Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Demerol / Lyrica / Haldol / Reglan / Toradol / morphine / 
ketamine / Tessalon Perles / gabapentin / ramelteon
 
Attending: ___.
 
Chief Complaint:
Chest wall pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old woman with ___ cell disease,
homelessness, opioid use disorder, HTN, and anxiety, who was
discharged from the hospital 5 days ago after an admission for
acute on chronic pain, who presented back to the ED with
progressive pain since the time of her discharge in the setting
of being unable to fill her long acting oxycodone. 

She has had multiple admissions in the past with acute pain, the
most recent of which was from ___. Hematology, chronic 
pain,
and addiction psychiatry have been involved, as her pain has 
been
felt to be multifactorial, including vasoocclusion but also
chronic pain, opioid use disorder and possibly malingering.
Although she presented with chest pain she was not felt to have
acute chest syndrome given her overall constellation of clinical
findings. Several observations raised concerns about 
malingering,
including patient appearing comfortable and intermittently
intoxicated on opioids, demanding IV pushes instead of minibags,
and declining social work assistance with resources. Her IV
dilaudid was weaned, during which time she reported severe pain
and symptoms of withdrawal. A multidisciplinary plan was
developed prior to her discharge to be implemented for future
presentations:
Care plan:
----------
1) early hematology evaluation to assess for likelihood of 
___ related acute process     
2) early addiction psych consultation; with offer of opioid-use 
disorder treatment
3) IV narcotics minibagged
4) IV Benadryl minibagged
5) once acute processes ruled out/thought unlikely, clear and 
consistent taper of IV narcotics in predictable fashion (would 
suggest not dosing initial IV dilaudid more than 4mg IV q4h PRN, 

and would suggest not increasing discharge PO regimen beyond 
oxycontin 20mg BID with oxycodone 30mg q6h PRN)
6) could consider requiring patient to accept PCA for pain 
control, which she has previously refused 

Of note she has been followed by Dr. ___ in hematology at
___ but was supposed to establish care today with Dr.
___ at ___ (although it remains unclear whether or not she
will actually switch, and Dr. ___ has offered to continue
seeing her). 

However she states that when she left she was able to fill the
script for her short acting oxycodone but not her long oxycodone
(she reports due to a prescribing provider-related issue in the
pharmacy computer system), and she states that since that time
she has gradually been developing worsening symptoms of opioid
withdrawal, similar to the symptoms she had during her recent
admission. these symptoms have included insomnia, chest pain,
headache, upset stomach, nausea, chills, shaking, and dyspnea.
She states that these symptoms had never fully resolved prior to
her discharge but became gradually worse over the 5 days or so
since her discharge. She does note that she has still been able
to climb 5 flights of stairs at a time despite the dyspnea,
although it has been more difficult than usual. The CP is left
upper sternal and radiates to the arm, leg, back, and neck, and
is ___. She notes some ongoing itching and notes that she has
intermittently been "turning red".  She initially presented to
the ED on ___, then left and then returned on ___. She notes 
that
she feels her current outpatient regimen is not working well
enough and hopes to have this addressed. 

In the ED she was afebrile with HR initially of 106 that trended
down to ___. BP initially 150s/80s, trended down to ___. She
was satting 98-99% on room air. Her labs were stable from prior,
with hgb 11.2, stable chemistry, normal absolute reticulocyte
count, negative troponin, and negative haptoglobin, EKG and CXR
unrevealing. She received 2 L LR, IV dilaudid 4 mg x2, IV
Benadryl 25 mg x 2, Tylenol, lisinopril, folic acid,
pantoprazole, and tizanidine. he case was discussed with the
hematology fellow by the ED who recommended admission for pain
risis. 

ROS: 10 point ROS negative except as above and as follows:
- tingling in fingertips and L toes, which she feels was brought
on by cold of ___ and has been slowly dissipating 
 
Past Medical History:
___ cell anemia - complicated by acute chest syndrome. Not
currently followed by hematologist.  
Depression/anxiety
Victim of domestic violence
GERD
s/p splenectomy at ___
s/p tonsillectomy/adenoidectomy at ___
s/p C-section at ___
s/p cholecystectomy at ___
s/p R breast lumpectomy at ___
 
Social History:
___
Family History:
Father - DM
Mother - DM, mitral valve prolapse
Cousin - ___ cell disease
Paternal aunt - breast cancer, ovarian cancer
Grandmother - heart disease
 
Physical Exam:
Admission exam; 
Vital signs:
99.0 PO 166 / 97 83 18 96 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.
MMMs
CV: Heart regular, soft systolic murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  
GU: No suprapubic tenderness, +R CVA tenderness
MSK: No swollen or erythematous joints
SKIN: No rashes or ulcerations noted
EXTR: wwp, no edema
NEURO: Alert, interactive, face symmetric, gaze conjugate with
EOMI, speech fluent, motor function grossly intact/symmetric
PSYCH: pleasant, appropriate affect

Discharge exam:
Patient refused exam on the day of discharge.
Last exam on ___:
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.
MMMs
CV: Heart regular, soft systolic murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  
GU: No suprapubic tenderness, +R CVA tenderness
MSK: No swollen or erythematous joints
SKIN: No rashes or ulcerations noted
EXTR: wwp, no edema
NEURO: Alert, interactive, face symmetric, gaze conjugate with
EOMI, speech fluent, motor function grossly intact/symmetric
PSYCH: flat affect, easily aggravated
 
Pertinent Results:
Admission labs: 
___ 07:45AM BLOOD WBC-8.8 RBC-3.95 Hgb-11.3 Hct-32.8* 
MCV-83 MCH-28.6 MCHC-34.5 RDW-15.6* RDWSD-46.4* Plt ___
___ 07:45AM BLOOD Neuts-75.7* Lymphs-15.4* Monos-6.9 
Eos-0.9* Baso-0.6 NRBC-0.7* Im ___ AbsNeut-6.68* 
AbsLymp-1.36 AbsMono-0.61 AbsEos-0.08 AbsBaso-0.05
___ 07:02AM BLOOD Ret Aut-2.6* Abs Ret-0.10
___ 07:45AM BLOOD Glucose-92 UreaN-14 Creat-0.8 Na-144 
K-4.7 Cl-104 HCO3-26 AnGap-14
___ 07:45AM BLOOD LD(LDH)-219
___ 07:45AM BLOOD cTropnT-<0.01
___ 07:02AM BLOOD Lipase-14

Discharge labs:
Last labs from ___ 11:01AM BLOOD WBC-7.8 RBC-3.47* Hgb-10.1* Hct-28.9* 
MCV-83 MCH-29.1 MCHC-34.9 RDW-15.1 RDWSD-45.1 Plt ___
___ 11:01AM BLOOD Glucose-83 UreaN-6 Creat-0.8 Na-141 K-4.9 
Cl-103 HCO3-24 AnGap-14
___ 11:01AM BLOOD ALT-8 AST-23 LD(LDH)-334* AlkPhos-92 
TotBili-1.3
___ 11:01AM BLOOD Calcium-9.4 Phos-5.4* Mg-1.7

Imaging: 
CXR ___
No evidence of an acute cardiopulmonary abnormality.

Micro: 
None

 
Brief Hospital Course:
___ is a ___ year old woman with ___ cell disease, 
homelessness, opioid use disorder, hypertension, and anxiety, 
who was discharged from the hospital 5 days ago after an 
admission for acute on chronic pain, who presented back to the 
ED with
progressive pain since the time of her discharge in the setting 
of being unable to fill her long-acting oxycodone. 

#Acute on chronic pain / chest pain
#Hx of ___ cell disease
#Suspected opioid use disorder
Extensive multidisciplinary effort to better understand the 
patient's pain mechanisms and develop an appropriate treatment 
plan at last admission but pt returns here with recurrent 
admission just a few days later. 
After multiple long conversations attempting to explore patients 
motives for readmission it seems to be a multifactorial process 
related to frustration regarding perceived lack of concern by 
medical professionals, anxiety, lack of social support, ongoing 
housing insecurity, and chronic pain condition complication by 
opioid use disorder.  It remains unclear why one but not both 
scripts of opioids were filled shortly after discharge, but the 
underlying processes at play (as identified above) seem to loom 
much larger than this.  We spoke directly with the dispensing 
pharmacy (___) who said that her old prior auth had lapsed 
and her co-pay for this particular long acting formulation was 
now ___ dollars although the patient states she eventually able 
to circumvent this.  We attempted to explore alternatives to 
opioids or at the very least, de-escalation of opiods which she 
was not open to discussing stating she has "tried everything" 
and the only thing she cares about is getting more opioids, 
namely IV dilaudid. She repeatedly attempted to manipulate the 
hospital system by threatening with passive SI if her demands 
were not met despite no clear objective evidence of exacerbation 
of her underling ___ cell disease or new organic medical 
process to explain her pain.  In fact, on numerous occasions she 
was seen to be nodding off after administration of her pain meds 
raising strong concern for oversedation and misuse.  She was 
started on IV opioids - 2mg dilaudid q6 and her home outpatient 
oral regimen on arrival with a plan for rapid taper.
Adjunct included 25mg IV bendadryl q6, ___ APAP, Tizanidine, 
folate. As above, she was seen by addiction psych who 
recommended MAT/ taper off opioids entirely which pt declined 
and seemed to only infuriate her.  Psychiatry eventually 
sectioned the patient for increased suicidal ideation and she 
will be going to ___ inpatient psychiatric facility. 
 Pain medications should not be further titrated at this time.  
Her hematologist, Dr. ___, is a hematologist at ___. 
___, and is the one who prescribes the patient narcotics 
on a weekly basis, and should be contacted if needed.

# Suicidal ideation:
Pt stating she was going to "end it all" but unable to elaborate 
on a plan and seems to escalate when issue of opiod tapering is 
raised.  She stated that 'we won't stop her from doing what she 
wants' and that 'she plans on killing herself'.  Apparently has 
a history of similar behavior at past admissions. Notably 
patient escalated further and threatened to leave when placed on 
1:1 sitter. Eventually, patient was seen by Psychiatry and 
___ and assigned an inpatient Psychiatry bed at ___. 
___.

# Hypertension
Patient had fluctuating BPs during the last admission, with BPs 
up to 170s-180s/110s-120s, without evidence of end-organ damage. 
She underwent several modifications to medication regimen and 
was ultimately discharged on lisinopril 40 mg daily. 
24 hour urine collection for secondary work-up, with cortisol 
and metanephrines completed, but does not appear diagnostic High 
and with false positive rate.
She had also been on an OCP, which was stopped in case this was 
associated. 
As urine metanephrines, catecholamines are elevated but not to 
diagnostic levels (ie fourfold) we opted to recommend further 
follow-up after discharge, as patient would not allow further 
investigation.  She should be assigned a new PCP upon release 
from inpatient Psychiatry, potentially with a PCP at ___. 
___, where her hematologist is located.

# +R CVA tenderness
Low suspicion for infection, although patient does report this 
pain is new. UA negative. Monitored clinically.

# Contraception:
Her home Loryna was discontinued during the last admission due 
to HTN.  A new PCP should be arranged for the patient, as noted 
above.

# GERD: Continue home pantoprazole

# Tobacco use disorder:
Restarted smoking, currently ___ ppd. Declined NRT.

# Homelessness
# Depression, anxiety
Patient stays at shelter as outpatient. Apparently awaiting
approval for emergency housing though not open to discussion. SW 
consulted as pt allows.

Transitional issues:
--------------------
# Follow-up: She should be assigned a new PCP upon release from 
inpatient Psychiatry, potentially with a PCP at ___, 
where her hematologist is located.  Her pain medications should 
only be given to get her to her next Hematology appointment.  
Please consider alternate OCP in view of issues with 
hypertension.  As urine metanephrines, catecholamines are 
elevated but not to diagnostic levels (ie fourfold) we opted to 
recommend further follow-up after discharge, as patient would 
not allow further investigation of hypertension.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Naloxone Nasal Spray 4 mg IH ONCE MR1 overdose 
2. Xtampza ER (oxyCODONE myristate) 18 mg oral BID 
3. Ondansetron 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 
4. DiphenhydrAMINE 50 mg PO Q8H:PRN itching  
5. FoLIC Acid 1 mg PO DAILY 
6. Lisinopril 40 mg PO DAILY 
7. OxyCODONE (Immediate Release) 30 mg PO Q6H:PRN Pain - 
Moderate 
8. Pantoprazole 40 mg PO Q24H 
9. Senna 8.6 mg PO BID 
10. Tizanidine 8 mg PO TID 
11. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 

 
Discharge Medications:
1.  OxyCODONE SR (OxyCONTIN) 20 mg PO Q12H 
This medication is only for psychiatric facility, in place of 
long-acting dose she takes at home  
2.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
3.  DiphenhydrAMINE 50 mg PO Q8H:PRN itching   
4.  FoLIC Acid 1 mg PO DAILY  
5.  Lisinopril 40 mg PO DAILY  
6.  Naloxone Nasal Spray 4 mg IH ONCE MR1 overdose  
7.  Ondansetron 8 mg PO Q8H:PRN Nausea/Vomiting - First Line  
8.  OxyCODONE (Immediate Release) 30 mg PO Q6H:PRN Pain - 
Moderate  
9.  Pantoprazole 40 mg PO Q24H  
10.  Senna 8.6 mg PO BID  
11.  Tizanidine 8 mg PO TID  
12.  Xtampza ER (oxyCODONE myristate) 18 mg oral BID 
This is patient's outpatient medication.  Oxycontin is being 
given while she is admitted in its place.    

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Chest pain
Hypertension
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital for evaluation of recurrent chest pain 
after difficulty obtaining your outpatient medicines.
You were seen by the addiction medicine specialists who 
discussed alternative ways of treating your pain and potential 
taper off of opiods altogether but you declined.

You are now being discharged to an inpatient psychiatric 
facility, where you will receive further care.

Upon discharge, please remember to take your medicine only as 
prescribed.

It was a pleasure taking care of you!
 
Followup Instructions:
___